### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Weierstrass): add `j_eq_zero[_iff][']`

### PR DESCRIPTION
**Pull request by acmepjz**
which state the equivalency of `j = 0` and `c4 ^ 3 = 0` (and `c4 = 0` if the ring is reduced).

Also added `IsReduced.pow_(eq|ne)_zero[_iff]`, which generalizes the `pow_(eq|ne)_zero[_iff]` assuming `NoZeroDivisors`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 1]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
 def j : R :=
   E.Δ'⁻¹ * E.c₄ ^ 3
 
+theorem j_eq_zero_iff' : E.j = 0 ↔ E.c₄ ^ 3 = 0 := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:545]: `lemma`? It's discussed somewhere that we might or might not reserve `theorem` for important theorems, but in any case the rest of this file follows the `lemma` convention.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 2]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
+  simp only [EllipticCurve.j, Units.mul_right_eq_zero]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:546]:
```suggestion
  rw [j, Units.mul_right_eq_zero]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 3]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
+
+alias ⟨_, j_eq_zero'⟩ := j_eq_zero_iff'
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:548]: I'm not convinced we need the directional aliases, since we can just do `E.j_eq_zero_iff'.mpr` etc.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 4]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
+
+theorem j_eq_zero_iff [IsReduced R] : E.j = 0 ↔ E.c₄ = 0 := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:550]: Is there a scenario where we have a reduced ring but not an integral domain i.e. `NoZeroDivisors R`? I know that this is more general, but the proof is so much simpler with `NoZeroDivisors R`:
```
  rw [j_eq_zero_iff', pow_eq_zero_iff three_ne_zero]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 5]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
+  rw [j_eq_zero_iff']
+  exact ⟨fun h ↦ IsNilpotent.eq_zero ⟨_, h⟩, fun h ↦ by simp [h]⟩
+
+theorem j_eq_zero : E.c₄ = 0 → E.j = 0 := fun h ↦ by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:554]: You could use an alias like you did above, but again I don't think we need this, otherwise we'd have lots of directional lemmas for every iff statement.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 6]
```diff
@@ -542,6 +542,26 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
+  simp [j_eq_zero_iff', h]
+
+theorem j_ne_zero_iff' : E.j ≠ 0 ↔ E.c₄ ^ 3 ≠ 0 := not_congr E.j_eq_zero_iff'
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:557]: I'm also not convinced we need the contrapositive versions since you can just use `not_congr` whenever needed.

**Review by Multramate — CHANGES_REQUESTED** [review]

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:550]: Should we generalize `pow_eq_zero_iff` from `NoZeroDivisors` to `IsReduced`?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:550]: This sounds like a good idea!

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:550]: > Is there a scenario where we have a reduced ring but not an integral domain i.e. `NoZeroDivisors R`?

I don't know, an artificial example is `R[X,Y]/(X,Y)`, but I don't know an example to consider elliptic curves on it.

> Should we generalize `pow_eq_zero_iff` from `NoZeroDivisors` to `IsReduced`?

Problem: `IsReduced` is not imported in that file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:557]: Plain `not_congr` produces `¬ E.j = 0 ↔ ¬ E.c₄ ^ 3 = 0`, which cannot `rw` the `E.j ≠ 0`. So I prefer reserving the `ne` version.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:554]: This is not an alias of `j_eq_zero_iff` since it does not need `IsReduced` assumption.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:548]: Fine.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Done.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Done.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 7]
```diff
@@ -542,6 +542,20 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
...
   E.Δ'⁻¹ * E.c₄ ^ 3
 
+lemma j_eq_zero_iff' : E.j = 0 ↔ E.c₄ ^ 3 = 0 := by
+  rw [j, Units.mul_right_eq_zero]
+
+lemma j_eq_zero_iff [IsReduced R] : E.j = 0 ↔ E.c₄ = 0 := by
+  rw [j_eq_zero_iff']
+  exact ⟨fun h ↦ IsNilpotent.eq_zero ⟨_, h⟩, fun h ↦ by simp [h]⟩
+
+lemma j_eq_zero : E.c₄ = 0 → E.j = 0 := fun h ↦ by
```
Comment (Ruben-VandeVelde) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:552]:
```suggestion
lemma j_eq_zero (h : E.c₄ = 0) : E.j = 0 := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 8]
```diff
@@ -542,6 +542,20 @@ variable {R : Type u} [CommRing R] (E : EllipticCurve R)
 def j : R :=
   E.Δ'⁻¹ * E.c₄ ^ 3
 
+lemma j_eq_zero_iff' : E.j = 0 ↔ E.c₄ ^ 3 = 0 := by
+  rw [j, Units.mul_right_eq_zero]
+
+lemma j_eq_zero_iff [IsReduced R] : E.j = 0 ↔ E.c₄ = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:548]: You could move this under `j_eq_zero` and use that to prove one direction like
```lean
  refine ⟨fun h ↦ ?_, j_eq_zero⟩
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by acmepjz** [comment]
Thanks! Suggestions applied.

I found that I need some more lemma for specified characteristic case. For example, in char 3 case, j=0 if and only if a2=0 (if I remembered correctly). Is it a good idea to include such char specified lemma in this file?

**Review by Ruben-VandeVelde — APPROVED** [review]
It makes sense to me to merge this, at least.

maintainer merge

**Comment by mattrobball** [comment]
@Multramate is this good to go? 

Also, please merge master and resolve the linter failures.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: I'm still not convinced by this. Could you give me an example where you need the negative forms in e.g. #16864?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 4 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > Can we add `IsReduced.pow_(eq|ne)_zero[_iff]` in `Mathlib.RingTheory.Nilpotent.Defs` in this PR? I'm happy with this.

Sure.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > Could you give me an example where you need the negative forms

Sorry, but I don't have examples for now. Now #16864 does not depend on this PR anymore...

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Fine. I think I'll remove this.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > Do you have an example where you need the unidirectional version, and not have a reduced ring?

No, I don't have this example. But I strongly insist to keep this for the sake of completeness.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 4 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Added.

File: Mathlib/RingTheory/Nilpotent/Defs.lean [hunk 9]
```diff
@@ -168,6 +168,29 @@ class IsReduced (R : Type*) [Zero R] [Pow R ℕ] : Prop where
...
+    x ^ n ≠ 0 ↔ x ≠ 0 := not_congr (pow_eq_zero_iff hn)
+
+theorem pow_ne_zero [Zero R] [Pow R ℕ] [IsReduced R] (n : ℕ) (h : x ≠ 0) :
+    x ^ n ≠ 0 := fun H ↦ h (pow_eq_zero H)
+
+/-- A variant of `IsReduced.pow_eq_zero_iff` assuming `R` is not trivial. -/
+@[simp]
+theorem pow_eq_zero_iff' [MonoidWithZero R] [IsReduced R] [Nontrivial R] {n : ℕ} :
+    x ^ n = 0 ↔ x = 0 ∧ n ≠ 0 := by
+  by_cases hn : n = 0 <;> simp [hn]
```
Comment (Multramate) [inline Mathlib/RingTheory/Nilpotent/Defs.lean:190]: Untested:
```suggestion
  cases n <;> simp
```

File: Mathlib/RingTheory/Nilpotent/Defs.lean [hunk 10]
```diff
@@ -168,6 +168,29 @@ class IsReduced (R : Type*) [Zero R] [Pow R ℕ] : Prop where
...
   eq_zero : ∀ x : R, IsNilpotent x → x = 0
 
+namespace IsReduced
+
+theorem pow_eq_zero [Zero R] [Pow R ℕ] [IsReduced R] {n : ℕ} (h : x ^ n = 0) :
+    x = 0 := IsReduced.eq_zero x ⟨n, h⟩
+
+@[simp]
+theorem pow_eq_zero_iff [MonoidWithZero R] [IsReduced R] {n : ℕ} (hn : n ≠ 0) :
+    x ^ n = 0 ↔ x = 0 := ⟨pow_eq_zero, fun h ↦ by rw [h]; exact zero_pow hn⟩
```
Comment (Multramate) [inline Mathlib/RingTheory/Nilpotent/Defs.lean:178]: Untested:
```suggestion
    x ^ n = 0 ↔ x = 0 := ⟨pow_eq_zero, fun h ↦ h.symm ▸ zero_pow hn⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 11]
```diff
@@ -554,6 +554,19 @@ variable (E : EllipticCurve R)
...
+  rw [j, Units.mul_right_eq_zero]
+
+/-- If the `c₄` of an elliptic curve is zero, then its `j` is zero. -/
+lemma j_eq_zero (h : E.c₄ = 0) : E.j = 0 := by
+  simp [j_eq_zero_iff', h]
+
+/-- If the ring is reduced, then the `j` of an elliptic curve is zero if and only if
+its `c₄` is zero. -/
+lemma j_eq_zero_iff [IsReduced R] : E.j = 0 ↔ E.c₄ = 0 := by
+  rw [j_eq_zero_iff', IsReduced.pow_eq_zero_iff (show 3 ≠ 0 by norm_num)]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:568]: Untested:
```suggestion
  rw [j_eq_zero_iff', IsReduced.pow_eq_zero_iff three_ne_zero]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 12]
```diff
@@ -554,6 +554,19 @@ variable (E : EllipticCurve R)
 def j : R :=
   E.Δ'⁻¹ * E.c₄ ^ 3
 
+/-- The `j` of an elliptic curve is zero if and only if its `c₄ ^ 3` is zero. -/
+lemma j_eq_zero_iff' : E.j = 0 ↔ E.c₄ ^ 3 = 0 := by
+  rw [j, Units.mul_right_eq_zero]
+
+/-- If the `c₄` of an elliptic curve is zero, then its `j` is zero. -/
+lemma j_eq_zero (h : E.c₄ = 0) : E.j = 0 := by
+  simp [j_eq_zero_iff', h]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:563]: Can avoid the need for simp so hopefully a bit faster?
```suggestion
  rw [j_eq_zero_iff', h, zero_pow three_ne_zero]
```

**Review by Multramate — APPROVED** [review]
Thanks for your patience! I added minor golfs but I'm happy with this now. I suppose there's also no need to add docstrings for the lemmas since they're kinda obvious what they do?

**Comment by acmepjz** [comment]
> I suppose there's also no need to add docstrings for the lemmas since they're kinda obvious what they do?

OK. Except for the results with a prime, which will be complained if without a docstring.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 13]
```diff
@@ -554,6 +554,16 @@ variable (E : EllipticCurve R)
 def j : R :=
   E.Δ'⁻¹ * E.c₄ ^ 3
 
+/-- A variant of `WeierstrassCurve.j_eq_zero_iff` without assuming the ring being reduced. -/
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:557]: I think this is `EllipticCurve.j_eq_zero_iff`?

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:557]: Oh sorry.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: BTW I do think your idea posted on Zulip of changing `EllipticCurve` into a `WeierstrassCurve` with an extra predicate (`IsElliptic`/`IsSmooth`/`IsNeZeroDisc`? Rather than have it be an extended structure) is fantastic, and would prevent issues like this in the future, but I haven't got around it. Have you made any attempts at this?

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > Have you made any attempts at this?

Not yet. Maybe I'll try later.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by mattrobball** [comment]
bors merge
